US06413938B1
5,6-Dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-N-((R)-sec-butyl )-1H-benzimidazol-2-amine
Following General Procedure V, (R)-sec-butylamine (Aldrich, 1.39 mL, 13.70 mmol), and 2-bromo-5,6-dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole (250 mg, 0.65 mmol) were reacted for 65 h. Additional (R)-sec-butylamine (1.39 mL, 13.70 mmol) was added, and the reaction continued to stir at 80° C. for 24 h. Purification on a silica gel column with 1:1 ethyl acetate:hexanes gave the title compound (130 mg, 0.35 mmol, 53%); MS (EI): m/z (rel. intensity) 374 (0.13, M+); 1H NMR (DMSO-d6) δ7.39 (s, 1H, Ar—H), 7.32 (s, 1H, Ar—H), 6.59 (d, 1H, NH, J=7.8 Hz), 5.72 (d, 1H, CH, J=6.6 Hz), 5.26 (m, 2H, overlapping OH), 4.27 (m, 1H, CH), 4.04-3.78 (m, 3H, overlapping CH), 1.61-1.51 (m, 2H, CH2), 1.38 (d, 3H, CH3, J=6.5 Hz), 1.17 (d, 3H, CH3, J=6.5 Hz), 0.89 (t, 3H, CH3, J=14.9 Hz).

reactant | (R)-sec-butylamine | 13.70 mmol, 1.39 mL | [C@@H](C)(CC)N | C4H11N
reactant | 2-bromo-5,6-dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-1H-benzimidazole | 0.65 mmol, 250 mg | BrC1=NC2=C(N1[C@H]1[C@H](O)[C@H](O)[C@H](O1)C)C=C(C(=C2)Cl)Cl | C12H11BrCl2N2O3
reactant | (R)-sec-butylamine | 13.70 mmol, 1.39 mL | [C@@H](C)(CC)N | C4H11N
product | 5,6-Dichloro-1-(5-deoxy-beta-D-ribofuranosyl)-N-((R)-sec-butyl )-1H-benzimidazol-2-amine | 0.35 mmol, 130 mg, 53% | ClC1=CC2=C(N(C(=N2)N[C@H](C)CC)[C@H]2[C@H](O)[C@H](O)[C@H](O2)C)C=C1Cl | C16H21Cl2N3O3
